US08304434B2
Step 2: tert-butyl 4-(1-{[6-(trifluoromethyl)pyridin-2-yl]thio}ethyl)piperidine-1-carboxylate
To a 16 ml vial was added tert-butyl 4-(1-mercaptoethyl)piperidine-1-carboxylate (500 mg, 2.04 mmol), 2-bromo-6-(trifluoromethyl)pyridine (460 mg, 2.04 mmol), Pd(dppf)Cl2 (42 mg, 0.051 mmol) and Cs2CO3 (996 mg, 3.06 mmol) and 4 ml toluene. The vial was flushed with nitrogen, sealed and heated at 75° C. for 36 hours. After cooling to room temperature, the reaction mixture was diluted with 30 ml ether, and washed with 30 ml water. The organics were dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel column eluted with 1:9 to 1:4 ethyl acetate/hexane to give 750 mg desired product was light yellow oil.

reactant | tert-butyl 4-(1-mercaptoethyl)piperidine-1-carboxylate | 2.04 mmol, 500 mg | SC(C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO2S
reactant | 2-bromo-6-(trifluoromethyl)pyridine | 2.04 mmol, 460 mg | BrC1=NC(=CC=C1)C(F)(F)F | C6H3BrF3N
reactant | Cs2CO3 | 3.06 mmol, 996 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd(dppf)Cl2 | 0.051 mmol, 42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(1-{[6-(trifluoromethyl)pyridin-2-yl]thio}ethyl)piperidine-1-carboxylate | 750 mg | FC(C1=CC=CC(=N1)SC(C)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C18H25F3N2O2S
